US06919329B2
Step 1: Preparation of (2R)-2,3-dihydro-2-methyl-1H-indol-5-amine
A mixture of benzyl (2R)-5-{[(benzyloxy)carbonyl]amino}-2-methyl-2,3-dihydro-1H-indole-1-carboxylate (PCT/US00/08224; WO00/73301, 3.36 g, 8.07 mmol) and 10% palladium-on-carbon (108 mg) in THF/MeOH (1:1, 60 mL) is shaken on a Parr apparatus under a 36 psi hydrogen atmosphere overnight. The catalyst is removed by filtration through a pad of Celite, and the filtrate is concentrated under reduced pressure. Purification by chromatography on a Biotage Flash 40M 90 g silica gel cartridge (1-2% MeOH/CH2Cl2) affords the title compound, MS (ESI+) for C9H12N2 m/z 149 (M+H)+.

reactant | benzyl (2R)-5-{[(benzyloxy)carbonyl]amino}-2-methyl-2,3-dihydro-1H-indole-1-carboxylate | 8.07 mmol, 3.36 g | C(C1=CC=CC=C1)OC(=O)NC=1C=C2C[C@H](N(C2=CC1)C(=O)OCC1=CC=CC=C1)C | C25H24N2O4
reactant | hydrogen | [H][H] | H2
solvent | THF MeOH | 60 mL | C1CCOC1.CO
catalyst | palladium-on-carbon | 108 mg | [Pd] | Pd
product | (2R)-2,3-dihydro-2-methyl-1H-indol-5-amine | C[C@H]1NC2=CC=C(C=C2C1)N | C9H12N2
